US08747816B2
Tert-octylamine (51.7 g, 0.4 mol) and triethylamine (61.2 ml, 0.44 mol) in 260 ml of dichloromethane were introduced into a reactor. It was heated to 70° C. then 4-nitrobenzoyl chloride (77.9 g, 0.42 mol) was added in small portions over 50 minutes. It was heated under reflux for 4 hours. The reaction mixture was poured over ice water; it was extracted with dichloromethane, dried and the solvent was evaporated off. The beige precipitate obtained was recrystallized from a mixture of isopropyl ether and ethanol (ratio 10:1). After drying under vacuum, 84.6 g (yield: 76%) of 4-nitro-N-(tert-octyl)benzamide were obtained in the form of an off-white powder and used as is in the next step.

reactant | Tert-octylamine | 0.4 mol, 51.7 g | C(C)(C)(CC(C)(C)C)N | C8H19N
reactant | triethylamine | 0.44 mol, 61.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 0.42 mol, 77.9 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 260 ml | ClCCl | CH2Cl2
product | 4-nitro-N-(tert-octyl)benzamide | 84.6 g, yield: 76% | [N+](=O)([O-])C1=CC=C(C(=O)NC(C)(C)CC(C)(C)C)C=C1 | C15H22N2O3
